US05004741
1,3-Dihydro-3-(RS)-(4-chlorophenylcarbonyl)amino-5-(2-fluorophenyl)-2H-1,4-benzodiazepin-2-one
1,3-Dihydro-3-(RS)-amino-5-(2-fluorophenyl)-2H-1,4-benzodiazepin-2-one (100 mg, 0.37 mmol) and p-chlorobenzoyl chloride (52 μl, 0.41 mmole) were combined at room temperature in 5 ml of methylene chloride. The resulting solution was protected from moisture and stirred at room temperature overnight. The reaction mixture was diluted with 70 ml of methylene chloride and washed with sodium bicarbonate solution (sat.) and brine. The organic extracts were dried (MgSO4) and concentrated to give 150 mg of crude product. Chromatography on silica gel (chloroform - methanol - ammonia, 95:5:0.5 v/v) and trituration with hexane yielded the analytical product as a white powder, m.p. 258°-259° C.

reactant | 1,3-Dihydro-3-(RS)-amino-5-(2-fluorophenyl)-2H-1,4-benzodiazepin-2-one | 0.37 mmol, 100 mg | NC1C(NC2=C(C(=N1)C1=C(C=CC=C1)F)C=CC=C2)=O | C15H12FN3O
reactant | p-chlorobenzoyl chloride | 0.41 mmole, 52 μl | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
reactant | hexane | CCCCCC | C6H14
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 70 ml | C(Cl)Cl | CH2Cl2
product | 1,3-Dihydro-3-(RS)-(4-chlorophenylcarbonyl)amino-5-(2-fluorophenyl)-2H-1,4-benzodiazepin-2-one | ClC1=CC=C(C=C1)C(=O)NC1C(NC2=C(C(=N1)C1=C(C=CC=C1)F)C=CC=C2)=O | C22H15ClFN3O2
